### PR TITLE
[stdlib] [List] Add results about count_occ

### PR DESCRIPTION
**Pull request by olaure01**
Some additional results about [count_occ].

**Kind:** feature

- [x] Entry added in the changelog (see https://github.com/coq/coq/tree/master/doc/changelog#unreleased-changelog for details).

### CODE REVIEW

**Comment by eponier** [comment]
Is `count_occ_sgt` really useful? I think the following lemma `forall x l, count_occ x l = length l -> l = repeat n x` would be nearly as powerful in the case of one-element lists and more general.

**Comment by eponier** [comment]
Maybe, `forall x l, (forall y, y <> x -> count_occ x l y = 0) -> exists n, l = repeat n x`?

File: theories/Lists/List.v [hunk 1]
```diff
@@ -877,6 +877,36 @@ Section Elts.
...
 
+  Lemma count_occ_app l1 l2 x :
+    count_occ (l1 ++ l2) x = count_occ l1 x + count_occ l2 x.
+  Proof.
+    induction l1 as [ | h l1 IHl1]; cbn; auto.
+    now destruct (eq_dec h x); [ rewrite IHl1 | ].
+  Qed.
+
+  Lemma count_occ_elt_eq l1 l2 x y : x = y ->
+    count_occ (l1 ++ x :: l2) y = S (count_occ (l1 ++ l2) y).
```
Comment (anton-trunov) [inline theories/Lists/List.v:888]: I'm not entirely sure about my suggestion to substitute `y` with `x` in the lemma statement, however, I think that the style of using an equality is not very common in the standard library. Although, it's kind of symmetric to the `count_occ_elt_neq` lemma below. Maybe we need another opinion on this.
```suggestion
  Lemma count_occ_elt_eq l1 l2 x :
    count_occ (l1 ++ x :: l2) x = S (count_occ (l1 ++ l2) x).
```

File: theories/Lists/List.v [hunk 2]
```diff
@@ -3242,6 +3272,54 @@ Section Repeat.
     now rewrite (IHl HF') at 1.
   Qed.
 
+  Hypothesis decA : forall x y : A, {x = y}+{x <> y}.
+
+  Lemma count_occ_repeat_eq x y n : x = y -> count_occ decA (repeat y n) x = n.
```
Comment (anton-trunov) [inline theories/Lists/List.v:3277]: The same comment as above.

**Review by anton-trunov — COMMENTED** [review]
LGTM, I have just a couple of minor comments.

File: theories/Lists/List.v (hunk 1 above)
Comment (olaure01) [reply theories/Lists/List.v:888]: Let us address the question of equality first: the best choice is not clear to me neither, I here took inspiration from `count_occ_cons_eq` and `count_occ_cons_neq` since the present statements are generalizing them.

Comment (anton-trunov) [reply theories/Lists/List.v:888]: Oh, I missed that lemma, sorry. Let's keep your version then :)

**Review by anton-trunov — APPROVED** [review]
I'll merge this PR next Tuesday to leave some time for comments.

**Comment by anton-trunov** [comment]
@coqbot merge now
